US04539151
Preparation of 3-acetylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
1.2 g of N-acetyl-S-(2-aminophenyl)cysteine was dissolved in 20 ml of xylene and the resulting solution was heated under reflux for 2 hours. After cooling, the precipitated crystals were separated and washed with methanol to obtain 0.8 g of the desired compound, or 3-acetylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one. Its melting point was 283°-286° C.

reactant | N-acetyl-S-(2-aminophenyl)cysteine | 1.2 g | C(C)(=O)N[C@@H](CSC1=C(C=CC=C1)N)C(=O)O | C11H14N2O3S
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-acetylamino-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.8 g | C(C)(=O)NC1CSC2=C(NC1=O)C=CC=C2 | C11H12N2O2S
